US04847251
4,5-Dihydro-5-methyl-6-[2-(1-pyrrolyl)-5-pyridyl]-3(2H)-pyridazinone
A mixture of 1.0 g. (5 mmole) 4,5-dihydro-5-methyl-6-(2-amino-5-pyridyl)-3(2H)-pyridazinone, 0.66 g. (5 mmole) 2,5-dimethoxytetrahydrofuran and 15 ml. acetic acid was heated under reflux for 30 minutes. The reaction mixture was evaporated, the residue was taken up in dichloromethane, washes with an aqueous solution of sodium hydrogen carbonate, evaporated and the residue chromatographed on silica gel (elution agent: trichloromethane/methanol 19:1 v/v). There were obained 0.5 g. of the title compound (39% of theory); m.p. 192°-193° C., after recrystallisation from diethyl ether.

reactant | 4,5-dihydro-5-methyl-6-(2-amino-5-pyridyl)-3(2H)-pyridazinone | 5 mmole | CC1CC(NN=C1C=1C=CC(=NC1)N)=O | C10H12N4O
reactant | 2,5-dimethoxytetrahydrofuran | 5 mmole | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-5-methyl-6-[2-(1-pyrrolyl)-5-pyridyl]-3(2H)-pyridazinone | CC1CC(NN=C1C=1C=CC(=NC1)N1C=CC=C1)=O | C14H14N4O
